US04366160
A solution of 19.68 g of 2,6-difluorophenylisothiocyanate and 34.1 g of N-{2-[N-(benzyloxy)amino]ethyl}phthalimide in 150 ml of benzene is heated to boiling under reflux for 6 hours. The cooled solution is separated from a slight precipitate and then evaporated in vacuo. The residual oil crystallizes from isopropyl ether. There is obtained 1-(benzyloxy)-3-(2,6-difluorophenyl)-1-(2-phthalimidoethyl)-2-thiourea of melting point 141°-143° (ether/methylene chloride).

reactant | 2,6-difluorophenylisothiocyanate | 19.68 g | FC1=C(C(=CC=C1)F)N=C=S | C7H3F2NS
reactant | N-{2-[N-(benzyloxy)amino]ethyl}phthalimide | 34.1 g | C(C1=CC=CC=C1)ONCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H16N2O3
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(benzyloxy)-3-(2,6-difluorophenyl)-1-(2-phthalimidoethyl)-2-thiourea | C(C1=CC=CC=C1)ON(C(=S)NC1=C(C=CC=C1F)F)CCN1C(C=2C(C1=O)=CC=CC2)=O | C24H19F2N3O3S
